* Z:\mnt\Documentos\Facultad\Electronica Aplicada III\Practicos\repo\EAIII\TP 3\simulaciones\PLL.asc
XU1 a b comp_in 0 N004 N005 N002 vco_in VDD 0 dem_out N001 N003 pulsos_de_fase out N006 CD4046Bg
V2 VDD 0 12
R3 vco_in N003 {R3}
C1 a b {C1}
C2 0 vco_in {C2}
R1 N004 0 {R1}
R2 N005 0 {R2}
R4 dem_out 0 10k
XU2 0 0 out NC_01 NC_02 NC_03 NC_04 NC_05 NC_06 NC_07 NC_08 NC_09 NC_10 comp_in VDD 0 CD4017B VDD=5 SPEED=1.0 TRIPDT=5e-9
C3 f_in N002 10n
B1 f_in 0 V=if((time+0.498),(15*sin(2*pi*25k*time)),(15*sin(2*pi*5k*time)))
.tran 0 5m 0 1u startup
.inc CD4046Bg.sub
.inc CD4000_v.lib
.param R1=10k R2=2k C1=180p
.param R3=15k C2=10n
.backanno
.end
